US07732477B2
N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-fluoro-1-benzothiophene-2-carboxamide hydrochloride
158 mg (0.69 mmol) of 3-chloro-6-fluoro-1-benzothiophene-2-carboxylic acid, 124 mg (0.62 mmol) of S-3-aminoquinuclidine dihydrochloride, 284.2 mg (0.75 mmol) of HATU, 289.8 mg (2.24 mmol) of N,N-diisopropylethylamine and 3.0 ml of DMF are reacted according to the general procedure (variant B). The reaction mixture is purified by preparative HPLC. The product is dissolved in a mixture of 4M HCl in dioxane and methanol and then reconcentrated. 190.5 mg (81.5% of theory) of the title compound are obtained. The analytical data correspond to those of the enantiomeric compound from example 56.

reactant | 3-chloro-6-fluoro-1-benzothiophene-2-carboxylic acid | 0.69 mmol, 158 mg | ClC1=C(SC2=C1C=CC(=C2)F)C(=O)O | C9H4ClFO2S
reactant | HATU | 0.75 mmol, 284.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.24 mmol, 289.8 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-fluoro-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2Cl)C=CC(=C1)F | InChI=1S/C16H16ClFN2OS.ClH/c17-14-11-2-1-10(18)7-13(11)22-15(14)16(21)19-12-8-20-5-3-9(12)4-6-20;/h1-2,7,9,12H,3-6,8H2,(H,19,21);1H/t12-;/m1./s1
